* C:\Users\Marcelo\Documents\GitHub\Electro4\TP1\Simulacion\boost.asc
M1 Vds Vgs 0 0 IRF530
R2 Vgs N005 100
Q1 0 N003 N005 0 BC557B
Q2 N001 N003 N005 0 BC546B
V1 N004 0 PULSE(0 10.5 0 0.0001u 0.0001u 20u 40u)
V2 N001 0 50
R3 N003 N004 1k
R1 N001 N002 150
L1 N002 Vds 220µ
D1 Vds N001 MUR460
.model D D
.lib C:\Users\Marcelo\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Marcelo\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Marcelo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.0001 0 0.00001
.backanno
.end
